US05030715
6-[(4-hydroxy 1,4-dioxobutyl)-amino]-3-heptenedioic acid
338 mg of triethylamine were added at ambient temperature to 583 mg of 1-methyl 7-ethyl 6-amino-3-heptenedioate prepared as in Example 5D in 50 ml of methylene chloride and after the mixture was cooled to +5° C., 483 mg of ethyl4-chloro-4-oxo-butanoate were added. The mixture was stirred for 1 hour at ambient temperature and 25 ml of water and 1 ml of 2N hydrochloric acid were added. Extraction was done with methylene chloride and the extract was washed with salt water, then with sodium bicarbonate solution, dried and the solvents were evaporated. The residue was chromatographed on silica and elution with cyclohexane - ethylene acetate (1-1) yielded 750 mg of the expected product.

reactant | triethylamine | 338 mg | C(C)N(CC)CC | C6H15N
reactant | 1-methyl 7-ethyl 6-amino-3-heptenedioate | NC(CC=CCC(=O)OC)C(=O)OCC | C10H17NO4
reactant | ethyl4-chloro-4-oxo-butanoate | 483 mg | C(C)OC(CCC(=O)Cl)=O | C6H9ClO3
reactant | hydrochloric acid | 2N, 1 ml | Cl | ClH
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | water | 25 ml | O | H2O
product | 6-[(4-hydroxy 1,4-dioxobutyl)-amino]-3-heptenedioic acid | 750 mg | OC(CCC(=O)NC(CC=CCC(=O)O)C(=O)O)=O | C11H15NO7
